US05198449
A mixture of 11.4 g (0.037 mol) of N-(2-phenylethyl)-4-(4-fluorobenzoyl)piperidine, 6.79 g (0.054 mol) of 4-fluorobenzylamine and 0.54 g (0.0034 mol) of benzenesulfonic acid in 400 mL of xylene was heated at reflux for 24 h. Water was removed from the reaction mixture with a Dean-Stark trap. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute NaOH. The CH2Cl2 solution was dried (Na2SO4), and the solvent was removed in vacuo to give 12.46 g (81.2%) a-(4-fluorophenyl)-N-[(4-fluorophenyl)methyl]-1-(2-phenylethyl)-4-piperidinemethanimine as an oil.

reactant | N-(2-phenylethyl)-4-(4-fluorobenzoyl)piperidine | 0.037 mol, 11.4 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C20H22FNO
reactant | 4-fluorobenzylamine | 0.054 mol, 6.79 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | benzenesulfonic acid | 0.0034 mol, 0.54 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | xylene | 400 mL | C=1(C(=CC=CC1)C)C | C8H10
product | a-(4-fluorophenyl)-N-[(4-fluorophenyl)methyl]-1-(2-phenylethyl)-4-piperidinemethanimine | 12.46 g, 81.2% | FC1=CC=C(C=C1)C(=NCC1=CC=C(C=C1)F)C1CCN(CC1)CCC1=CC=CC=C1 | C27H28F2N2
